US08957062B2
Step C: 4-[(1R,2S)-2-{2-[4-(2-azetidin-1-yl-2-oxoethyl)phenoxy]ethyl}cyclopropyl]-1-[3-(1-methylethyl)-1,2,4-oxadiazol-5-yl]piperidine
2-(4-(2-((1S,2R)-2-(1-(3-isopropyl-1,2,4-oxadiazol-5-yl)piperidin-4-yl)cyclopropyl)ethoxy)phenyl)acetic acid (100 mg, 0.242 mmol), 1-hydroxybenzotriazole hydrate (55 mg, 0.363 mmol), and (E)-3-(ethyldiazenyl)-N,N-dimethylpropan-1-amine hydrochloride (70.0 mg, 0.363 mmol) were dissolved in CH2Cl2 (4 ml). The mixture was stirred at RT for 5 min. and azetidine (21 mg, 0.363 mmol) was added. The mixture was stirred at RT overnight and loaded directly on Preparative TLC that was developed with 5% MeOH in DCM. The desired product (Rf=0.35 @ 5% MeOH in DCM) was collected to give the title compound. 1H NMR (500 MHz, CDCl3) δ 7.20 (d, 2H), 6.90 (d, 2H), 4.05-4.15 (m, 8H), 3.41 (s, 2H), 3.05 (m, 2H), 2.96 (m, 1H), 2.26 (m, 2H), 2.18 (m, 1H), 1.95 (m, 2H), 1.50 (m, 3H), 1.35 (d, 6H), 0.95-1.05 (m, 2H), 0.68 (m, 2H), −0.40 (m, 1H). LC/MS (m/z): 453 (M+H)+, GPR119 Human EC50: 1.8 nM.

reactant | 2-(4-(2-((1S,2R)-2-(1-(3-isopropyl-1,2,4-oxadiazol-5-yl)piperidin-4-yl)cyclopropyl)ethoxy)phenyl)acetic acid | 0.242 mmol, 100 mg | C(C)(C)C1=NOC(=N1)N1CCC(CC1)[C@@H]1[C@@H](C1)CCOC1=CC=C(C=C1)CC(=O)O | C23H31N3O4
reactant | 1-hydroxybenzotriazole hydrate | 0.363 mmol, 55 mg | O.ON1N=NC2=C1C=CC=C2
reactant | (E)-3-(ethyldiazenyl)-N,N-dimethylpropan-1-amine hydrochloride | 0.363 mmol, 70.0 mg | Cl.C(C)/N=N/CCCN(C)C
reactant | azetidine | 0.363 mmol, 21 mg | N1CCC1 | C3H7N
solvent | CH2Cl2 | 4 ml | C(Cl)Cl | CH2Cl2
solvent | MeOH | CO | CH4O
product | 4-[(1R,2S)-2-{2-[4-(2-azetidin-1-yl-2-oxoethyl)phenoxy]ethyl}cyclopropyl]-1-[3-(1-methylethyl)-1,2,4-oxadiazol-5-yl]piperidine | N1(CCC1)C(CC1=CC=C(OCC[C@H]2[C@H](C2)C2CCN(CC2)C2=NC(=NO2)C(C)C)C=C1)=O | C26H36N4O3
